US08207183B2
(S)—N—{(S)-1-Cyclohexyl-2-oxo-2-[(S)-2-(3-phenoxy-phenyl)-pyrrolidin-1-yl]-ethyl}-2-methylamino-propionamide (45):
To a solution of ((S) 1-{(S)-1-cyclohexyl-2-oxo-2-[(S)-2-(3-phenoxy-phenyl)-pyrrolodin-1-yl]-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (450 mgs, 0.79 mmol) in CH2Cl2 (20 mL) is added TFA (10 mL) and stirred for 30 minutes. The mixture is concentrated under reduced pressures and purified by reverse phase column chromatography to give the product as a TFA salt (370 mgs, 82%). LCMS m/z 464.1 (M+1).

reactant | ((S) 1-{(S)-1-cyclohexyl-2-oxo-2-[(S)-2-(3-phenoxy-phenyl)-pyrrolodin-1-yl]-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | 0.79 mmol, 450 mgs | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@H](C(N1[C@@H](CCC1)C1=CC(=CC=C1)OC1=CC=CC=C1)=O)C1CCCCC1)=O)=O | C33H45N3O5
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)—N—{(S)-1-Cyclohexyl-2-oxo-2-[(S)-2-(3-phenoxy-phenyl)-pyrrolidin-1-yl]-ethyl}-2-methylamino-propionamide | 370 mgs, 82% | C1(CCCCC1)[C@@H](C(N1[C@@H](CCC1)C1=CC(=CC=C1)OC1=CC=CC=C1)=O)NC([C@H](C)NC)=O | C28H37N3O3
